US07816522B2
To 15 ml of a THF solution containing 3.665 g of 2-dimethoxymethyl-1-fluoro-4-methoxybenzene [CAS No. 883576-30-5] and 3.48 g of N,N,N′,N′,N″-pentamethyldiethylenetriamine, 7.1 ml of n-butyllithium (2.66 M, hexane solution) was added dropwise at −74° C. The resulting mixture was stirred at −60° C. for 3 hours, and then 3 ml of N-formylmorpholine was added thereto. The temperature of the reaction mixture was slowly allowed to rise to room temperature. Then, water was added to the reaction mixture while cooling on ice, and then the mixture was extracted with a mixture of hexane and t-butylmethyl ether and dried over anhydrous magnesium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure to give a crude product of 3-dimethoxymethyl-2-fluoro-5-methoxybenzaldehyde.

reactant | 2-dimethoxymethyl-1-fluoro-4-methoxybenzene | 3.665 g | COC(C1=C(C=CC(=C1)OC)F)OC | C10H13FO3
reactant | N,N,N′,N′,N″-pentamethyldiethylenetriamine | 3.48 g | CN(C)CCN(C)CCN(C)C | C9H23N3
reactant | n-butyllithium | 2.66 M, 7.1 ml | C(CCC)[Li]
reactant | N-formylmorpholine | 3 ml | C(=O)N1CCOCC1 | C5H9NO2
solvent | water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-dimethoxymethyl-2-fluoro-5-methoxybenzaldehyde | COC(C=1C(=C(C=O)C=C(C1)OC)F)OC | C11H13FO4
